US06359134B1
1-(4-Diisopropylaminomethylbenzoyl)-4-(1-naphthalenesulfonyl)piperazine hydrochloride
To 1-(4-diisopropylaminomethylbenzoyl)-4-(1-naphthalenesulfonyl)piperazine (181 mg) was added 4 N hydrochloric acid in ethyl acetate solution (5 ml), and the precipitated hydrochlorides were filtered to give the title compound (180 mg).

reactant | 1-(4-diisopropylaminomethylbenzoyl)-4-(1-naphthalenesulfonyl)piperazine | 181 mg | C(C)(C)N(C(C)C)CC1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC=CC3=CC=CC=C23)C=C1 | C28H35N3O3S
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-Diisopropylaminomethylbenzoyl)-4-(1-naphthalenesulfonyl)piperazine hydrochloride | 180 mg | Cl.C(C)(C)N(C(C)C)CC1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC=CC3=CC=CC=C23)C=C1 | InChI=1S/C28H35N3O3S.ClH/c1-21(2)31(22(3)4)20-23-12-14-25(15-13-23)28(32)29-16-18-30(19-17-29)35(33,34)27-11-7-9-24-8-5-6-10-26(24)27;/h5-15,21-22H,16-20H2,1-4H3;1H
